* Its a single compartment neuron.
rm b c 3.16G
vm c 0 dc 0.060
cm b 0 3.1416p
*i0 b 0 pulse(0p 10p 0 0.1n 0.1n 0.5 1) 
*i1 b 0 pulse(0p 10p 0 0.1n 0.1n 0.05 0.1) 
*i2 b 0 pulse(0p 10p 0 0.1n 0.1n 0.005 0.01) 
i3 b 0 pulse(0p 10p 0 0.1n 0.1n 0.0005 0.001) 

.CONTROL
set filetype=ascii
tran 0.001m 10m
print v(b) > ./output_1000hz.txt
quit
.ENDC

